US07384967B2
To a solution of 2-amino benzoic acid (10 mmol) in THF was added benzoyl chloride (2.8 g, 20 mmol) followed by pyridine (1.58 g, 20 mmol). The mixture was stirred for 1 h at room temperature. The 2-phenyl-benzo[d][1,3]oxazin-4-one formed was filtered and the residue was washed with water and dried in vaccuum desiccator.

reactant | 2-amino benzoic acid | 10 mmol | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | benzoyl chloride | 20 mmol, 2.8 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyridine | 20 mmol, 1.58 g | N1=CC=CC=C1 | C5H5N
solvent | THF | C1CCOC1 | C4H8O
product | 2-phenyl-benzo[d][1,3]oxazin-4-one | C1(=CC=CC=C1)C=1OC(C2=C(N1)C=CC=C2)=O | C14H9NO2
